US04643990
To Nα -[N-(3-hexadecanoyloxyoctadecanoyl)-L-valyl]-Nε -benzyloxycarbonyl-L-lysine (650 mg) in acetic acid (5 ml) was added 30% hydrogen bromide solution in acetic acid (4 ml), and the mixture was stirred at room temperature for 2 hours. Excess solvent was removed off by evaporation under reduced pressure. The residue was taken up in benzene, and the solvent was distilled off. This operation was repeated twice to give powder of N-[N-(3-hexadecanoyloxyoctadecanoyl)-L-valyl]-L-lysine.hydrogen bromide (550 mg).

reactant | Nα -[N-(3-hexadecanoyloxyoctadecanoyl)-L-valyl]-Nε -benzyloxycarbonyl-L-lysine | 650 mg | C(CCCCCCCCCCCCCCC)(=O)OC(CC(=O)N[C@@H](C(C)C)C(=O)N[C@@H](CCCCNC(=O)OCC1=CC=CC=C1)C(=O)O)CCCCCCCCCCCCCCC | C53H93N3O8
reactant | hydrogen bromide | Br | BrH
solvent | acetic acid | 5 ml | C(C)(=O)O | C2H4O2
solvent | acetic acid | 4 ml | C(C)(=O)O | C2H4O2
product | N-[N-(3-hexadecanoyloxyoctadecanoyl)-L-valyl]-L-lysine | C(CCCCCCCCCCCCCCC)(=O)OC(CC(=O)N[C@@H](C(C)C)C(=O)N[C@@H](CCCCN)C(=O)O)CCCCCCCCCCCCCCC | C45H87N3O6
